US04621082
Ethyl 2,4-dimorpholino-7-methyl-5-(3-cyanophenyl)-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylate
0.8 g (6 mmol) of 3-cyanobenzaldehyde, 0.8 g (6 mmol) of ethyl acetoacetate and 1.6 g (6 mmol) of 6-amino-2,4-dimorpholino-pyrimidine were heated together in 20 ml of ethanol for 15 hours under reflux. The reaction mixture was then cooled, and the precipitated product was filtered off with suction and recrystallized from a little ethanol, melting point: 210° C. Yield: 1.8 g (61%).

reactant | 3-cyanobenzaldehyde | 6 mmol, 0.8 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | ethyl acetoacetate | 6 mmol, 0.8 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 6-amino-2,4-dimorpholino-pyrimidine | 6 mmol, 1.6 g | NC1=CC(=NC(=N1)N1CCOCC1)N1CCOCC1 | C12H19N5O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Ethyl 2,4-dimorpholino-7-methyl-5-(3-cyanophenyl)-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylate | O1CCN(CC1)C=1N=C(C2=C(N1)NC(=C(C2C2=CC(=CC=C2)C#N)C(=O)OCC)C)N2CCOCC2 | C26H30N6O4
